US07452901B2
{4-[6-Methoxy-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-2-methyl-but-2-enyl}-phosphonic acid diphenyl ester
To a solution of [{4-[6-methoxy-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-2-methyl-but-2-enyl}-phosphonic acid (260 mg, 0.59 mmol) in DMF (6 mL) and phenol (555 mg, 5.9 mmol) was added dicyclohexyl carbodiimide (1.21 g, 5.9 mmol) and DMAP (36 mg, 0.295 mmol). The reaction mixture was heated to 140° C. for 30 minutes. After cooling to room temperature, the mixture was partitioned between EtOAc/Hexane (1:1) and 5% aqueous LiCl solution. The organic layer was washed with 5% aqueous LiCl solution repeatedly, then dried over Na2SO4. After removal of solvent, the residue was purified by silica gel chromatography to provide 75 mg (21%) of the desired product. MS (m/z) 617 [M+Na]+.

reactant | {4-[6-methoxy-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-2-methyl-but-2-enyl}-phosphonic acid | 0.59 mmol, 260 mg | COC1=C(C(=C2C(OCC2=C1C)=O)OCC[Si](C)(C)C)CC=C(CP(O)(O)=O)C | C20H31O7PSi
reactant | phenol | 5.9 mmol, 555 mg | C1(=CC=CC=C1)O | C6H6O
reactant | dicyclohexyl carbodiimide | 5.9 mmol, 1.21 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
catalyst | DMAP | 0.295 mmol, 36 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | {4-[6-Methoxy-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-2-methyl-but-2-enyl}-phosphonic acid diphenyl ester | 75 mg, 21% | C1(=CC=CC=C1)OP(OC1=CC=CC=C1)(=O)CC(=CCC=1C(=C2C(OCC2=C(C1OC)C)=O)OCC[Si](C)(C)C)C | C32H39O7PSi
